US08492378B2
5-(5-methyl-1,3,4-oxadiazol-2-yl)-3-[3-(trifluoromethoxy)phenyl]furo[3,2-b]pyridine
In the same manner as in Example 132 and using 3-bromo-5-(5-methyl-1,3,4-oxadiazol-2-yl)furo[3,2-b]pyridine instead of 2-(3-bromo-1-benzofuran-5-yl)-5-methyl-1,3,4-oxadiazole, using [3-(trifluoromethoxy)phenyl]boronic acid instead of (4-fluorophenyl)boronic acid, and using [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) chloride dichloromethane complex instead of tetrakis(triphenylphosphine)palladium(0), the title compound (yield 57%) was obtained as colorless crystals.

reactant | 3-bromo-5-(5-methyl-1,3,4-oxadiazol-2-yl)furo[3,2-b]pyridine | BrC1=COC=2C1=NC(=CC2)C=2OC(=NN2)C | C10H6BrN3O2
reactant | [3-(trifluoromethoxy)phenyl]boronic acid | FC(OC=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O3
product | 5-(5-methyl-1,3,4-oxadiazol-2-yl)-3-[3-(trifluoromethoxy)phenyl]furo[3,2-b]pyridine | yield 57% | CC1=NN=C(O1)C1=CC=C2C(=N1)C(=CO2)C2=CC(=CC=C2)OC(F)(F)F | C17H10F3N3O3
